reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])[H:8].[C:4]([H:9])([H:11])([H:12])[H:13],93.8382016184936
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:4]=[O:5])[H:9])([H:6])([H:7])[H:8].[O:3]([H:10])[H:11],84.6529385826491
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[O:4][H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],56.369687492216904
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3](=[C:4]=[C:5]([N+:7]#[C-:6])[H:12])[H:11])([H:9])[H:10])[H:8],98.62705312076339
[O:1](/[C:2](=[C:3]1\[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8])[H:9]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],50.76604850936799
[N:1](=[C:2](/[C:3]([O:4][H:11])([H:8])[H:9])[O+:6]=[C-:5][H:10])\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],11.458737743451508
[N:1]([C:2](=[O:3])[N:4]([H:7])[H:8])([H:5])[H:6]>>[N:1](=[C:2]=[O:3])[H:5].[N:4]([H:6])([H:7])[H:8],49.1814604183908
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4][C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12])([H:6])([H:7])[H:8],5.28267749364079
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[C:4]([H:11])[H:12])[C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[H:10][H:13],113.694321472541
[H:9][H:11].[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:8])[H:10])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],72.336601294476
[N:1]1([H:7])[C@@:2]([C:5]#[N:6])([H:9])[C:3]1([H:10])[H:11].[O:4]([H:8])[H:12]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],69.635076557031
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]1[C@:3]2([H:10])[N:4]([H:11])[C@:5]2([H:12])[O:6]1)([H:7])([H:8])[H:9],122.813025377603
[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]=[C:3]([H:10])[H:11])([H:6])([H:7])[H:8].[C:4]=[N:5][H:9],53.668159139139796
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:6]1=[N:7][C@@:3]1([C:4]([O:5][H:15])([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10],96.4957442308445
[C:1]([C:2]([C:3](=[O:4])[N+:5]([C-:6]([H:13])[H:14])([H:12])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],15.379907148814993
[C:1]1([H:7])([H:8])[O+:2]=[C-:3][C:4]1([H:9])[H:10].[O:5]=[C:6]([H:11])[H:12]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],36.817882668395406
[N:1]#[C:2][C:3]#[N:4]>>[N+:1](#[C-:2])[C:3]#[N:4],59.5231750888222
[C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])[H:8].[H:9][H:11]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],81.6643339518867
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O+:1](=[C-:2][H:7])[c:5]1[c:3](=[O:4])[c:6]1[H:8],90.4525597972607
[N:1]([C:2](=[O:3])[N+:4](=[C-:5][O:6][H:10])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8],33.30316733208651
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C-:4]=[C:5]([H:12])[N+:7]#[C:6]1)([H:9])[H:10])[H:8],92.5138315942733
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([N+:7]#[C-:6])[H:11])([H:9])[H:10])[H:8],58.6556705991786
[C:1]([C:2](=[C:3]=[C:4]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10].[C:5](=[O:6])=[C:7]([H:14])[H:15]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],45.05951954971249
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])=[C:6]([O:7][H:11])[H:15],68.6829357018939
[C:1](/[C:2](=[C:3](\[C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:16])[H:18])[H:15])[H:10])([H:7])([H:8])[H:9].[H:11][H:17]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:7])([H:8])[H:9],103.7531026026502
[O:1]([C:2]([C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[O:1]1[C:2]([H:7])([H:8])[C:3]([H:9])([H:10])[C:4]1=[C:5]([H:6])[H:11],73.5432379215355
